US04059567
55 g (0.5 mol) of m-aminophenol are dissolved in 500 ml of isopropanol in a 1 liter three-necked flask equipped with a stirrer, thermometer and dropping funnel. A solution, precooled to 0° C, of 55.0 ml (1.10 mol) of cyanogen chloride in 50 ml of isopropanol is slowly added dropwise with stirring to the resulting solution at a temperature of 0° C. On completion of the reaction, a solution of 106 g (1.05 mol) of triethylamine in 50 ml of isopropanol is pumped in below the surface at 0° C by means of a metering pump. The reaction mixture is then stirred for 2 hours at room temperature. The product which precipitates is filtered off under suction, washed with 50 ml of isopropanol, subsequently taken up in 500 ml of dichloroethane and the triethyl ammonium chloride is extracted with water. Removal of the solvent by distillation at room temperature leaves the crude m-cyanatophenyl cyanamide which, in the IR-spectrum, shows two absorption bands characteristic of the cyanamide and the cyanate group in the region of 4.5 μ.

reactant | m-aminophenol | 0.5 mol, 55 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | cyanogen chloride | 1.10 mol, 55.0 ml | N#CCl | CClN
reactant | triethylamine | 1.05 mol, 106 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | m-cyanatophenyl cyanamide | O(C#N)C=1C=C(C=CC1)NC#N | C8H5N3O
